US06630600B1
(S)-2-Ethoxy-3-[4-{2-(4-[methylsulfonylamino]phenyl)ethoxy}phenyl]propanoic acid ethyl ester (0.17 g; 0.39 mmole) was dissolved in tetrahydrofuran (10 ml). Iodomethane (0.277 g; 1.95 mmole) and sodium hydride (0.019 g; 0.79 mmole) were added and the reaction mixture was stirred at room temperature for 3 hours and then evaporated. The residue was redissolved and extracted with diethyl ether and water. The organic phase was washed once more with water, dried with sodium sulfate and evaporated. Chromatography with ethyl acetate:petroleum ether (1:1) gave 0.098 g (55.8% yield) of (S)-2-ethoxy-3-[4-{2-(4-[methylsulfonyl(methyl)amino]phenyl)ethoxy}phenyl]propanoic acid ethyl ester.

reactant | (S)-2-Ethoxy-3-[4-{2-(4-[methylsulfonylamino]phenyl)ethoxy}phenyl]propanoic acid ethyl ester | 0.39 mmole, 0.17 g | C(C)OC([C@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NS(=O)(=O)C)OCC)=O | C22H29NO6S
reactant | Iodomethane | 1.95 mmole, 0.277 g | IC | CH3I
reactant | sodium hydride | 0.79 mmole, 0.019 g | [H-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (S)-2-ethoxy-3-[4-{2-(4-[methylsulfonyl(methyl)amino]phenyl)ethoxy}phenyl]propanoic acid ethyl ester | 0.098 g, 55.8% yield | C(C)OC([C@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)N(C)S(=O)(=O)C)OCC)=O | C23H31NO6S
